US06166015
Proceeding as described above but substituting 4-(2,5-dimethylphenyl)-4-oxobutyric acid with 2-(3-acetylaminophenyl)acetic acid and 3-aminomethyl-1-(3,4-dichlorobenzyl)pyrrolidine with 3-(S)-aminomethyl-1-(2,3-dichlorobenzyl)pyrrolidine gave N-[1-(2,3-dichlorobenzyl)pyrrolidin-3-(S)-ylmethyl]-2-(3-acetylaminophenyl)-acetamide.

reactant | 2-(3-acetylaminophenyl)acetic acid | C(C)(=O)NC=1C=C(C=CC1)CC(=O)O | C10H11NO3
reactant | 3-aminomethyl-1-(3,4-dichlorobenzyl)pyrrolidine | NCC1CN(CC1)CC1=CC(=C(C=C1)Cl)Cl | C12H16Cl2N2
reactant | 3-(S)-aminomethyl-1-(2,3-dichlorobenzyl)pyrrolidine | NC[C@H]1CN(CC1)CC1=C(C(=CC=C1)Cl)Cl | C12H16Cl2N2
product | N-[1-(2,3-dichlorobenzyl)pyrrolidin-3-(S)-ylmethyl]-2-(3-acetylaminophenyl)-acetamide | ClC1=C(CN2C[C@@H](CC2)CNC(CC2=CC(=CC=C2)NC(C)=O)=O)C=CC=C1Cl | C22H25Cl2N3O2
